US06077962
To a slurry of L-aspartic acid (4 g, 0.03 mol) in 1:1 methanol/water (80 mL) was added neat 3,3-dimethylbutyraldehyde (3 g, 0.03 mol), followed by Pd/C (4%, 50% wet, 0.5 g). The mixture was hydrogenated using H2 (50 psi) at room temperature for 2 days. The resulting reaction mixture was filtered through a Celite® bed, and the bed washed with methanol (50 mL) The filtrate and washings were combined and the methanol removed using a rotary evaporator under reduced pressure at 40-50° C. to provide the N,N-di-neohexyl L-aspartic acid as a solid precipitate in water. The solid was filtered, washed with water (2 mL) and dried in a vacuum oven at 50° C. for 4 hrs to provide 3.2 g of N,N-di-neohexyl L-aspartic acid (36%), M.P. 197-198° C., [α]D -3 (c=1, methanol). Anal. Calc'd. for C16H31NO4 ; C, 63.78; H, 10.29; N, 4.65. Found: C, 63.43; H, 10.29; N, 4.70

reactant | L-aspartic acid | 0.03 mol, 4 g | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | 3,3-dimethylbutyraldehyde | 0.03 mol, 3 g | CC(CC=O)(C)C | C6H12O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
solvent | methanol water | 80 mL | CO.O
product | N,N-di-neohexyl L-aspartic acid | C(CC(C)(C)C)N([C@@H](CC(=O)O)C(=O)O)CCC(C)(C)C | C16H31NO4
